US05223498
A mixture of 2-methyl-3-ethyl-1-(2-morpholinophenyl)-2-thiopseudourea hydroiodide (6 g) and 33% methylamine in absolute ethanol solution (250 ml) was heated initially for 24 hours at 45° C. and then left at room temperature for 14 days to yield 1-ethyl-2-(2-morpholinophenyl)-3-methylguanidine as a colourless solid (m.p. 118°-119° C.) which was recrystallised from hexane.

reactant | 2-methyl-3-ethyl-1-(2-morpholinophenyl)-2-thiopseudourea hydroiodide | 6 g | I.CSC(NC1=C(C=CC=C1)N1CCOCC1)=NCC
reactant | methylamine | CN | CH5N
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-ethyl-2-(2-morpholinophenyl)-3-methylguanidine | C(C)NC(=NC1=C(C=CC=C1)N1CCOCC1)NC | C14H22N4O
